data/mechanism_extracts/JACS/10.1021_jacs.3c07146_sup_1.json
{"doi": "10.1021_jacs.3c07146_sup_1", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical coupling involving anodic oxidation of arenes/thiophenes/styrenes, studied by cyclic voltammetry to establish oxidation potentials of substrates", "mechanism_family": ["radical_anodic", "radical_cation", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of electron-rich (hetero)arenes and styrenes to their radical cations at a glassy carbon electrode (E_p/2 ranging from 1.26 V to 2.19 V vs SCE)", "key_intermediates": [{"name": "2-methoxythiophene-derived radical cation", "smiles": null, "role": "reactive"}, {"name": "2-methylthiophene-derived radical cation", "smiles": null, "role": "reactive"}, {"name": "2-methoxystyrene radical cation", "smiles": null, "role": "reactive"}, {"name": "benzylic radical (post-deprotonation/fragmentation)", "smiles": null, "role": "transient"}], "electron_flow": "The anode performs single-electron oxidation of the electron-rich (hetero)aromatic substrate to a radical cation; subsequent chemistry (e.g., deprotonation to a benzylic radical) is probed by radical trapping experiments.", "rate_determining_step": null, "probe_reagents": [{"name": "benzylic radical trap (TEMPO or similar, as indicated by 'Benzylic radical trapping experiment' section)", "smiles": null, "purpose": "radical_trap", "observation": "Section header indicates a benzylic radical trapping experiment was performed to evidence a benzylic radical intermediate (details on subsequent pages not shown)"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "redox_probe"], "evidence_strength": "medium", "notes": "Only the CV portion and the header of a benzylic radical trapping experiment are visible. CV data (E_p/2: compound 49 = 1.26 V; compound 2 = 1.70 V; compound 47 = 1.46 V; compound 1 = 2.00 V; compound 3 = 1.71 V; 2-acetylthiophene = 2.19 V) rank substrate oxidation potentials, supporting that electron-rich heteroaromatics/styrenes are oxidized first under anodic conditions. Probe reagent identity for the benzylic radical trapping experiment is not visible on this page."}
